### PR TITLE
feat: add `BitVec.(msb, getMsbD)_(rotateLeft, rotateRight)`

### PR DESCRIPTION
**Pull request by luisacicolini**
This PR adds theorems `BitVec.(getMsbD, msb)_(rotateLeft, rotateRight)`.

We follow the same strategy taken for `getLsbD`, constructing the necessary auxilliary theorems first (relying on different hypotheses) and then generalizing.

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -2611,7 +2611,6 @@ theorem getLsbD_rotateLeftAux_of_geq {x : BitVec w} {r : Nat} {i : Nat} (hi : i
   apply getLsbD_ge
   omega
 
-/-- When `r < w`, we give a formula for `(x.rotateRight r).getLsbD i`. -/
 theorem getLsbD_rotateLeft_of_le {x : BitVec w} {r i : Nat} (hr: r < w) :
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2614]: Was this comment removed accidentally?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -2638,6 +2637,52 @@ theorem getElem_rotateLeft {x : BitVec w} {r i : Nat} (h : i < w) :
       if h' : i < r % w then x[(w - (r % w) + i)] else x[i - (r % w)] := by
   simp [← BitVec.getLsbD_eq_getElem, h]
 
+/-- If `w ≤ x < 2 * w`, then `x % w = x - w` -/
+private theorem add_mod_eq_add_sub {x w : Nat} (x_le :  w ≤ x) (x_lt : x < 2 * w) :
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2641]: Incorrectly named. Should be `mod_eq_sub`, or possibly `mod_eq_sub_of_le_of_lt` and made public.

(It's okay to use private theorems that belong in a different namespace, but preferrable to avoid them where possible.)

Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2641]:
```suggestion
private theorem add_mod_eq_add_sub {x w : Nat} (x_le : w ≤ x) (x_lt : x < 2 * w) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -2638,6 +2637,52 @@ theorem getElem_rotateLeft {x : BitVec w} {r i : Nat} (h : i < w) :
...
+    x % w = x - w := by
+  rw [Nat.mod_eq_sub_mod, Nat.mod_eq_of_lt (by omega)]
+  omega
+
+theorem getMsbD_rotateLeftAux_of_le {x : BitVec w} {r : Nat} {i : Nat} (hi : i < w - r) :
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2646]:
```suggestion
theorem getMsbD_rotateLeftAux_of_lt {x : BitVec w} {r : Nat} {i : Nat} (hi : i < w - r) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -2638,6 +2637,52 @@ theorem getElem_rotateLeft {x : BitVec w} {r i : Nat} (h : i < w) :
...
+    (x.rotateLeftAux r).getMsbD i = x.getMsbD (r + i) := by
+  rw [rotateLeftAux, getMsbD_or]
+  simp [show i < w - r by omega, Nat.add_comm]
+
+theorem getMsbD_rotateLeftAux_of_geq {x : BitVec w} {r : Nat} {i : Nat} (hi : i ≥ w - r) :
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2651]:
```suggestion
theorem getMsbD_rotateLeftAux_of_ge {x : BitVec w} {r : Nat} {i : Nat} (hi : i ≥ w - r) :
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -2638,6 +2637,52 @@ theorem getElem_rotateLeft {x : BitVec w} {r i : Nat} (h : i < w) :
...
+    (x.rotateLeftAux r).getMsbD i = (decide (i < w) && x.getMsbD (i - (w - r))) := by
+  simp [rotateLeftAux, getMsbD_or, show i + r ≥ w by omega, show ¬i < w - r by omega]
+
+/-- When `r < w`, we give a formula for `(x.rotateLeft r).getMsbD i`. -/
+theorem getMsbD_rotateLeft_of_le {n w : Nat} {x : BitVec w} (hi : r < w):
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2656]:
```suggestion
theorem getMsbD_rotateLeft_of_lt {n w : Nat} {x : BitVec w} (hi : r < w):
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -2638,6 +2637,52 @@ theorem getElem_rotateLeft {x : BitVec w} {r i : Nat} (h : i < w) :
...
+  rcases w with rfl | w
+  · simp
+  · by_cases h : r < w
+    · rw [getMsbD_rotateLeft_of_le (by omega)]
+    · rw [← rotateLeft_mod_eq_rotateLeft, getMsbD_rotateLeft_of_le (by apply Nat.mod_lt; simp)]
+      simp
+
+@[simp]
+theorem msb_rotateLeft {m w : Nat} {x : BitVec w} :
+    (x.rotateLeft m).msb = decide (0 < w && x.getMsbD (m % w)) := by
```
Comment (kim-em) [inline src/Init/Data/BitVec/Lemmas.lean:2683]:
```suggestion
    (x.rotateLeft m).msb = (decide (0 < w) && x.getMsbD (m % w)) := by
```

File: src/Init/Data/BitVec/Lemmas.lean (hunk 5 above)
Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:2656]: and similarly below.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 6 above)
Comment (kim-em) [reply src/Init/Data/BitVec/Lemmas.lean:2683]: Is the `decide (0 < w)` needed here? I think it gives the correct answer without.

Comment (luisacicolini) [reply src/Init/Data/BitVec/Lemmas.lean:2683]: AFAIU it is: if I remove it I get `x.getMsbD (m % w) = true → 0 < w`, which `intro` and `omega` can not solve

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: I managed to drop it with a minor extension of the proof.

**Comment by luisacicolini** [comment]
got it @kim-em! And thanks for reviewing this :)
